US04260756
6-(3-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 1.5 g. of 3-chloro-6-(3-thienyl)pyridazine and 0.96 g. of formic acid hydrazide in 50 ml. of n-butyl alcohol is heated at the reflux temperature for 48 hours. The reaction mixture is concentrated free of volatiles and the residue is partitioned between dilute sodium hydroxide and methylene chloride. The organic layer is dried over anhydrous sodium sulfate, filtered and evaporated. The residue is recrystallized from methylene chloride-hexane to give a solid. The solid is recrystallized from acetone-hexane to provide 1.0 g. of the product of the Example as a orange-cream solid, m.p. 189°-192° C.

reactant | 3-chloro-6-(3-thienyl)pyridazine | ClC=1N=NC(=CC1)C1=CSC=C1 | C8H5ClN2S
reactant | formic acid hydrazide | C(=O)NN | CH4N2O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 6-(3-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine | S1C=C(C=C1)C=1C=CC=2N(N1)C=NN2 | C9H6N4S
